US04364956
5-(4-Methoxybenzoyl)-4-oxo-4H-pyran-2-carboxylic acid
Treatment of ethyl 5-(4-methoxybenzoyl)-4-oxo-4H-pyran-2-carboxylate with boron tribromide under the conditions described in Example 45 caused preferential cleavage of the ester group to give the title product (mp 185°-190° C. with decomposition).

reactant | ethyl 5-(4-methoxybenzoyl)-4-oxo-4H-pyran-2-carboxylate | COC1=CC=C(C(=O)C=2C(C=C(OC2)C(=O)OCC)=O)C=C1 | C16H14O6
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 5-(4-Methoxybenzoyl)-4-oxo-4H-pyran-2-carboxylic acid | COC1=CC=C(C(=O)C=2C(C=C(OC2)C(=O)O)=O)C=C1 | C14H10O6
